US08058276B2
Step 1.2: 6-Benzyloxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide
In a dried vessel, 99 μl (0.79 mMol) 3-trifluoromethyl-aniline are dissolved in 14 ml toluene and cooled to 10° C. Then 1.2 ml Me3Al (2 M in toluene; 2.4 mMol) are added via syringe. After 1 h at rt, a solution of 236 mg (0.79 mMol) 6-benzyloxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester in 3 ml THF is added and the reaction mixture stirred for 25 min in an oil bath at 110° C. The solution is cooled in ice and hydrolyzed with 30 ml of a sat. NH4Cl. After 15 min stirring, EtOAc and Celite are added. The mixture is filtered through Celite, the solid washed with EtOAc and water, the aq. phase separated from the filtrate and extracted with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Crystallisation from EtOAc/hexane gives the title compound: MS: [M−1]=411; TLC(hexane/EtOAc 3:1): Rf=0.51.

reactant | 3-trifluoromethyl-aniline | 0.79 mMol, 99 μl | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | Me3Al | 2.4 mMol, 2 M, 1.2 ml | C[Al](C)C
reactant | 6-benzyloxy-benzo[d]isoxazole-3-carboxylic acid ethyl ester | 0.79 mMol, 236 mg | C(C)OC(=O)C1=NOC2=C1C=CC(=C2)OCC2=CC=CC=C2 | C17H15NO4
reactant | NH4Cl | 30 ml | [NH4+].[Cl-]
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Benzyloxy-benzo[d]isoxazole-3-carboxylic acid (3-trifluoromethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)C1=NOC2=C1C=CC(=C2)OCC2=CC=CC=C2)(F)F | C22H15F3N2O3
